US06706731B2
Under a N2 atmosphere, 122 μl (0.90 mmol) of trimethylsilyl iodide are added to a solution of 351 mg (0.90 mmol) of trans 1-(4-isopropyl-cyclohexylamino)-4-[(6-methoxy-pyridin-3-yl)-methyl]-isoquinoline in 8 ml of chloroform, and stirred for 14 h at 60° C., then a further 122 μl of trimethylsilyl iodide are added and stirring is again effected for 3 h at 60° C. The mixture is cooled, the supernatant solution decanted from the solid, rinsed with a little chloroform and the chloroform phases discarded. The residue is dissolved by stirring in 40 ml of methylene chloride, 10 ml of methanol, 5 ml of EtOAc, 5 ml of saturated NaHCO3 solution and 5 ml of water. After adding more water, the organic phase is separated and washed with water and brine. The aqueous phases are extracted 3 more times with EtOAc. Drying (Na2SO4), concentrating by evaporation and crystallisation from hexane yield trans 1-(4-isopropyl-cyclohexylamino)-4-[(6-hydroxy-pyridin-3-yl)-methyl]-isoquinoline from the organic phases; FAB-MS: (M+H)+=376; TLC(acetone/CH2Cl2 3:2): Rf=0.13.

reactant | trimethylsilyl iodide | 0.90 mmol, 122 μl | C[Si](C)(C)I | C3H9ISi
reactant | trans 1-(4-isopropyl-cyclohexylamino)-4-[(6-methoxy-pyridin-3-yl)-methyl]-isoquinoline | 0.90 mmol, 351 mg | C(C)(C)[C@@H]1CC[C@H](CC1)NC1=NC=C(C2=CC=CC=C12)CC=1C=NC(=CC1)OC | C25H31N3O
reactant | trimethylsilyl iodide | 122 μl | C[Si](C)(C)I | C3H9ISi
solvent | chloroform | 8 ml | C(Cl)(Cl)Cl | CHCl3
product | trans 1-(4-isopropyl-cyclohexylamino)-4-[(6-hydroxy-pyridin-3-yl)-methyl]-isoquinoline | C(C)(C)[C@@H]1CC[C@H](CC1)NC1=NC=C(C2=CC=CC=C12)CC=1C=NC(=CC1)O | C24H29N3O
